US04172829
2-Ethoxy-9-cyclohexyl-9H-adenine
A mixture of 9-(2-cyclohexenyl)-2-ethoxy-9H-adenine (0.5 mmole) and 10% palladium-on-charcoal (35 mg.) in ethanol (6 ml.) was hydrogenated at room temperature and under atmospheric pressure. The reaction mixture was filtered and the filtrate was evaporated. The residue was lyophilized to give the title product in 40% yield; m.p. 134°-136° C. IR(KBr): 3280, 2995, 1705, 1615, 1525, 1415, 1310, 1010 cm-1. UV: λmaxEtOH 253 nm(ε 6800), 269 nm(ε , 10200). NMR(CDCl3): 1.44(3H, t, J=7 Hz), 2.00(10H, m), 4.45(2H, q, J=7 Hz), 4.50(1H, m), 8.07(1H, s), 8.60(2H, s).

reactant | 9-(2-cyclohexenyl)-2-ethoxy-9H-adenine | 0.5 mmole | C1(C=CCCC1)N1C2=NC(=NC(=C2N=C1)N)OCC | C13H17N5O
solvent | ethanol | 6 ml | C(C)O | C2H6O
catalyst | palladium-on-charcoal | 35 mg | [Pd] | Pd
product | 2-Ethoxy-9-cyclohexyl-9H-adenine | 40% yield | C(C)OC1=NC(=C2N=CN(C2=N1)C1CCCCC1)N | C13H19N5O
